US04562157
(2) Synthesis of N-(4-azido-2-nitrophenyl)-1,3-diaminopropane
2.5 ml (30 mM) 1,3-diaminopropane was dissolved in 25 ml ethanol. To this solution, was added a solution of 1.82 g (10 mM) 4-fluoro-3-nitrophenyl azide in 25 ml ethanol. The addition was performed dropwise with stirring. The mixture was stirred at room temperature for 16 hours. After this time, 150 ml of water were added and the pH adjusted to between 1 and 2 with concentrated HCl. This solution was filtered to remove the disubstituted amine, cooled on ice and the product was precipitated by the slow addition of concentrated aqueous ammonia with stirring. The product was collected by filtration of the cold mixture, washed with ice-cold water and dried in vacuo.

reactant | 1,3-diaminopropane | 30 mM, 2.5 ml | NCCCN | C3H10N2
reactant | 4-fluoro-3-nitrophenyl azide | 10 mM, 1.82 g | FC1=C(C=C(C=C1)N=[N+]=[N-])[N+](=O)[O-] | C6H3FN4O2
reactant | water | 150 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-(4-azido-2-nitrophenyl)-1,3-diaminopropane | N(=[N+]=[N-])C1=CC(=C(C=C1)NCCCN)[N+](=O)[O-] | C9H12N6O2
